US07994185B2
Step D: N-{3-[5-(2-Amino-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-4-fluorophenyl}-2,6-difluorobenzenesulfonamide
Following a procedure analogous to the procedure described in Example 21 using N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-4-fluorophenyl}-2,6-difluorobenzenesulfonamide (150 mg, 0.264 mmol) and NH4OH (3 mL) heated at 120° C. in a microwave reactor for 15 min, the title compound was obtained as a yellow solid (67 mg, 0.122 mmol, 46.2% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.99 (s, 1H), 7.78 (d, J=5.3 Hz, 1H), 7.59-7.75 (m, 1H), 7.18-7.30 (m, 4H), 7.15 (d, J=5.8 Hz, 1H), 6.57 (s, 2H), 5.59 (d, J=5.2 Hz, 1H), 3.64-3.77 (m, 4H), 3.40-3.47 (m, 4H). m/z (ES+): 549 [M+H]+.

reactant | N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-4-fluorophenyl}-2,6-difluorobenzenesulfonamide | 0.264 mmol, 150 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)N1CCOCC1)C=1C=C(C=CC1F)NS(=O)(=O)C1=C(C=CC=C1F)F | C23H17ClF3N5O3S2
reactant | NH4OH | 3 mL | [NH4+].[OH-]
product | N-{3-[5-(2-Amino-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-4-fluorophenyl}-2,6-difluorobenzenesulfonamide | NC1=NC=CC(=N1)C1=C(N=C(S1)N1CCOCC1)C=1C=C(C=CC1F)NS(=O)(=O)C1=C(C=CC=C1F)F | C23H19F3N6O3S2
